US09062199B2
A four-necked flask equipped with a stirrer, a thermometer, a Dean-Stark apparatus, and a nitrogen blowing tube was charged with 2,515 g (19.3 mol) of 2-ethylhexanol manufactured by KANTO CHEMICAL CO., LTD., 877 g (7.43 mol) of succinic acid manufactured by Wako Pure Chemical Industries, Ltd., and 14.1 g (0.0742 mol) of paratoluenesulfonic acid monohydrate manufactured by Wako Pure Chemical Industries, Ltd., and the contents were allowed to react from a state of a pressure of 16 kPa and 80° C. to a state of a pressure of 12 kPa and 90° C. over 7 hours to distill off water. Thereafter, 32 g of KYOWAAD 500SH manufactured by Kyowa Chemical Industry Co., Ltd. was added thereto, and the mixture was stirred at a pressure of 4.0 kPa and 80° C. for 1 hour, and then filtered under a reduced pressure. A four-neck flask equipped with a stirrer, a thermometer, a distillation tube, and a nitrogen blowing tube was charged with the filtrate, and the residual 2-ethylhexanol was distilled off while changing the states from a state of a pressure of 0.7 kPa and 95° C. to a state of a pressure 0.5 kPa and 185° C. Thereafter, 16 g of KYOWAAD 500SH was again added thereto, and the mixture was stirred at a pressure of 4.0 kPa and 80° C. for 1 hour, and then filtered under a reduced pressure, to provide bis(2-ethylhexyl) succinate. Next, a four-necked flask equipped with a stirrer, a thermometer, a dropping funnel, a distillation tube, and a nitrogen blowing tube was charged with 467 g (1.36 mol) of the bis(2-ethylhexyl) succinate obtained, 250 g (2.36 mol) of diethylene glycol, and 2.2 g of a 28% by weight sodium methoxide-containing methanol solution (sodium methoxide: 0.011 mol) as a catalyst, and the contents were allowed to react at 110° C. while gradually dropping the pressure from 2.7 kPa to 0.9 kPa over 45 minutes, to distill off 2-ethylhexanol formed by the reaction. The temperature was cooled to 80° C., thereafter 1,953 g (5.70 mol) of bis(2-ethylhexyl) succinate and 5.0 g of a 28% by weight sodium methoxide-containing methanol solution (sodium methoxide: 0.026 mol) were again added thereto, and the contents were allowed to react, with gradually dropping the pressure while raising the temperature, from a state of 110° C. and 0.8 kPa to a state of 158° C. and 0.4 kPa over 5.5 hours, to distill off 2-ethylhexanol formed by the reaction. The temperature was then cooled to 80° C., and 10.5 g of KYOWAAD 600S manufactured by Kyowa Chemical Industry Co., Ltd. was added thereto, and the mixture was stirred at a pressure of 4.0 kPa and 80° C. for 1 hour, and then filtered under a reduced pressure. The pressure was gradually dropped while raising the temperature, from a state of 178° C. and 0.3 kPa to a state of 220° C. and 0.1 kPa over 4.5 hours, to distill off the residual bis(2-ethylhexyl) succinate, to provide a yellow liquid at an ambient temperature. The amount of the catalyst used was 0.53 mol per 100 mol of the dicarboxylic acid ester.

reactant | 2-ethylhexanol | 19.3 mol, 2,515 g | C(C)C(CO)CCCC | C8H18O
reactant | succinic acid | 7.43 mol, 877 g | C(CCC(=O)O)(=O)O | C4H6O4
product | bis(2-ethylhexyl) succinate | C(CCC(=O)OCC(CCCC)CC)(=O)OCC(CCCC)CC | C20H38O4
